US04607128
A mixture of 0.5 mol of propenyl 4-trifluoromethylphenyl ether, 0.25 mol of pentaerythritol and 5 g of p-toluenesulphonic acid in 500 ml of carbon tetrachloride was stirred and refluxed under nitrogen for 40 minutes. The resulting solution was washed with 250 ml of water, and then dried by azeotroping 150 ml solvent in vacuo. After addition of 150 ml of fresh carbon tetrachloride, chlorine was passed into the solution for 2 hours, after which the solution was washed with 250 ml of water and the solvent was evaporated. The remaining product was purified by fractional distillation to give 74.8 g of 2chloro-4-trifluoromethylphenol, b.p: 52°-53.5° C. at 6 Torr., which was identified and shown by gas chromatography to have a purity of greater than 97%.

reactant | propenyl 4-trifluoromethylphenyl ether | 0.5 mol | FC(C1=CC=C(C=C1)OC=CC)(F)F | C10H9F3O
reactant | pentaerythritol | 0.25 mol | OCC(CO)(CO)CO | C5H12O4
reactant | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | p-toluenesulphonic acid | 5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2chloro-4-trifluoromethylphenol | 74.8 g | ClC1=C(C=CC(=C1)C(F)(F)F)O | C7H4ClF3O
